US04045209
A solution OF 11.4 g of N-methyl-N-methylsulfonyl-carbamoyl chloride in 100 ml of tetrahydrofuran was slowly added at 10° C. to a mixture of 60 ml of tetrahydrofuran, 10.1 g of triethylamine and 16.1 g of 3-trifluoromethylaniline, and after stirring for 16 hours, the mixture was filtered. The filtrate was distilled to dryness under reduced pressure. The residue was added to isopropyl ether and the precipitate formed was recovered by vacuum filtration and was washed and dried to obtain 8 g of N-methyl-N-methylsulfonyl-N'-(3-trifluoromethylphenyl)-urea melting at 72° C. The melting point was unchanged after crystallization from isopropyl ether.

reactant | N-methyl-N-methylsulfonyl-carbamoyl chloride | 11.4 g | CN(C(=O)Cl)S(=O)(=O)C | C3H6ClNO3S
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylaniline | 16.1 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-methyl-N-methylsulfonyl-N'-(3-trifluoromethylphenyl)-urea | 8 g | CN(C(=O)NC1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C | C10H11F3N2O3S
